US07326732B2
(i) 3-(3-Amino-phenyl)-propionic acid ethyl ester (124)
3-(3-Aminophenyl)propionic acid (250 mg, 1.52 mmol) was esterified with EtOH using Method A to give the title compound.

reactant | 3-(3-Aminophenyl)propionic acid | 1.52 mmol, 250 mg | NC=1C=C(C=CC1)CCC(=O)O | C9H11NO2
reactant | EtOH | CCO | C2H6O
product | 3-(3-Amino-phenyl)-propionic acid ethyl ester | C(C)OC(CCC1=CC(=CC=C1)N)=O | C11H15NO2
